US09193721B2
Step H: N-{1-[5-(4-Acetylpiperazin-1-yl)-8-bromoimidazo[1,5-a]pyridin-6-yl]ethyl}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
A solution of 1-[5-(4-acetylpiperazin-1-yl)-8-bromoimidazo[1,5-a]pyridin-6-yl]ethanamine bis(trifluoroacetate) (67 mg, 0.11 mmol), 6-bromo-9-(tetrahydro-2H-pyran-2-yl)-9H-purine (48 mg, 0.17 mmol), and N,N-diisopropylethylamine (98 mL, 0.56 mmol) in ethanol (0.87 mL) was heated at 95° C. overnight. Purification via preparative HPLC on a C-18 column eluting acetonitrile: water gradient buffered with ammonia to pH 10 gave the desired product (36 mg, 56%). LCMS for C25H31BrN9O2 (M+H)+: m/z=568.2, 570.2. Found: 568.0, 570.0.

reactant | 1-[5-(4-acetylpiperazin-1-yl)-8-bromoimidazo[1,5-a]pyridin-6-yl]ethanamine bis(trifluoroacetate) | 0.11 mmol, 67 mg | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.C(C)(=O)N1CCN(CC1)C1=C(C=C(C=2N1C=NC2)Br)C(C)N
reactant | 6-bromo-9-(tetrahydro-2H-pyran-2-yl)-9H-purine | 0.17 mmol, 48 mg | BrC1=C2N=CN(C2=NC=N1)C1OCCCC1 | C10H11BrN4O
reactant | N,N-diisopropylethylamine | 0.56 mmol, 98 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethanol | 0.87 mL | C(C)O | C2H6O
product | N-{1-[5-(4-Acetylpiperazin-1-yl)-8-bromoimidazo[1,5-a]pyridin-6-yl]ethyl}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 36 mg, 56% | C(C)(=O)N1CCN(CC1)C1=C(C=C(C=2N1C=NC2)Br)C(C)NC2=C1N=CN(C1=NC=N2)C2OCCCC2 | C25H30BrN9O2
